US04831029
8-Benzyl-2-methylthio-6,7,8,9-tetrahydro-pyrido[3,4-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one
A mixture of 39.05 g (0.3 mole) of 5-amino-3-methylthio-1H-1,2,4-triazole, 1-benzyl-4-carbethoxy-3-oxo-piperidine-hydrochloride and 110 ml of acetic acid is heated to boiling for 6.5 hours. The reaction mixture is allowed to stand overnight, the precipitate is filtered and washed with acetone. Thus 115.30 g of the crude product are obtained. The crude product is dissolved in 130 ml of hot pyridine, and to the pyridine solution 400 ml of acetone are added. The precipitated crystals are filtered, washed with acetone, the product is dissolved in 270 ml of pyridine and 1000 ml of acetone are added to the pyridine solution. The precipitated crystals are filtered and washed with acetone. Thus 89.3 g of the desired compound are obtained, yield 91%, m.p.: 232°-234° C.

reactant | 5-amino-3-methylthio-1H-1,2,4-triazole | 0.3 mole, 39.05 g | NC1=NC(=NN1)SC | C3H6N4S
reactant | 1-benzyl-4-carbethoxy-3-oxo-piperidine-hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
reactant | acetone | CC(=O)C | C3H6O
reactant | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 8-Benzyl-2-methylthio-6,7,8,9-tetrahydro-pyrido[3,4-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 89.3 g, yield 91% | C(C1=CC=CC=C1)C1CNC(C=2N=C3N(CC21)NC(=N3)SC)=O | C16H17N5OS
